US05250548
Methyl 6-n-butyl-2-chloropyrimidine-4-carboxylate
Methyl 6-n-butyl-2-hydroxypyrimidine-4-carboxylate (prepared as described by Z. Budesinsky and F. Roubinek in Collection Czechoslovak Chem Commun., 26, 2871-2885 (1991)) is refluxed with phosphorous oxychloride, as described by the same authors for the chlorination of methyl 6-methyl-2-hydroxypyrimidine-4-carboxylate, to give the title compound.

reactant | Methyl 6-n-butyl-2-hydroxypyrimidine-4-carboxylate | C(CCC)C1=CC(=NC(=N1)O)C(=O)OC | C10H14N2O3
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | methyl 6-methyl-2-hydroxypyrimidine-4-carboxylate | CC1=CC(=NC(=N1)O)C(=O)OC | C7H8N2O3
product | Methyl 6-n-butyl-2-chloropyrimidine-4-carboxylate | C(CCC)C1=CC(=NC(=N1)Cl)C(=O)OC | C10H13ClN2O2
